US04889857
A suspension of 3.36 g of diethyl 2,3,4,5-tetrafluorobenzoylmalonate, 2.22 g of 2-(N-ethoxycarbonyl-N-methylaminomethyl)morpholine and 0.84 g of sodium hydrogen carbonate in 13 ml of acetonitrile is refluxed for 5 hours., The reaction mixture is concentrated under reduced pressure, to the obtained residue is added 20 ml of chloroform and it is washed with water. After drying over anhydrous magnesium sulfate, the chloroform is distilled off under reduced pressure and to the residue are added 20 mg of p-toluenesulfonic acid and 20 ml of water. After refluxing for 16 hours, the resultant mixture is extracted with chloroform. The extract is washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give ethyl 4-[2-(N-ethoxycarbonyl-N-methylaminomethyl)morpholino]-2,3,5-trifluorobenzoylacetate as an oily substance. The NMR values of this compound are identical with those of the compound obtained by Reference example 15(1).

reactant | diethyl 2,3,4,5-tetrafluorobenzoylmalonate | 3.36 g | FC1=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=C(C(=C1F)F)F | C14H12F4O5
reactant | 2-(N-ethoxycarbonyl-N-methylaminomethyl)morpholine | 2.22 g | C(C)OC(=O)N(C)CC1CNCCO1 | C9H18N2O3
reactant | sodium hydrogen carbonate | 0.84 g | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 13 ml | C(C)#N | C2H3N
product | ethyl 4-[2-(N-ethoxycarbonyl-N-methylaminomethyl)morpholino]-2,3,5-trifluorobenzoylacetate | C(C)OC(=O)N(C)CC1OCCN(C1)C1=C(C(=C(C(=O)CC(=O)OCC)C=C1F)F)F | C20H25F3N2O6
